US07176216B2
7-Bromo-2-methyl-3-nitropyrazolo[1,5-a]pyridine
To a solution of 7-bromo-2-methylpyrazolo[1,5-a]pyridine (1.3 g) dissolved in acetonitrile (25 mL) was added nitronium tetrafluoroborate (900 mg) while stirring on ice, and the reaction mixture was stirred for 10 minutes. The obtained reaction mixture was added to ice water, and the precipitated crystals were collected by filtration, washed with water and then dried under reduced pressure to afford crude crystals. These were purified by silica gel column chromatography and the title compound (900 mg) was obtained as yellow crystals from the n-hexane:ethyl acetate (5:1) fraction.

reactant | 7-bromo-2-methylpyrazolo[1,5-a]pyridine | 1.3 g | BrC1=CC=CC=2N1N=C(C2)C | C8H7BrN2
reactant | nitronium tetrafluoroborate | 900 mg | F[B-](F)(F)F.O=[N+]=O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 7-Bromo-2-methyl-3-nitropyrazolo[1,5-a]pyridine | 900 mg | BrC1=CC=CC=2N1N=C(C2[N+](=O)[O-])C | C8H6BrN3O2
